US07989463B2
Step (ii): Synthesis of 4-chloro-2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidine
A mixture of 2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol (4.5 g, 22 mmol) and phosphorus oxychloride (13 mL, 130 mmol) was heated to reflux for 4 hours. Thereafter, volatiles were evaporated under reduced pressure and the mixture was poured over ice-water. After stirring for 1 hour, the product was extracted with dichloromethane (3×50 mL). The combined organic extracts were washed with water, treated with activated charcoal, dried over anhydrous Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a light yellow solid (4.2 g, 86% yield)

reactant | 2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol | 22 mmol, 4.5 g | C1(CCCC1)C1=NC2=C(C(=N1)O)CCC2 | C12H16N2O
reactant | phosphorus oxychloride | 130 mmol, 13 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-cyclopentyl-6,7-dihydro-5H-cyclopentapyrimidine | 4.2 g, 86% yield | ClC1=NC(=NC2=C1CCC2)C2CCCC2 | C12H15ClN2
